US06890947B2
(S)-2-Ethoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid
Starting from (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester and 4-chloromethyl-2-phenyl-5-methyl-oxazole, the title compound was obtained in 64% yield as a colourless oil. MS: (M−H)− 403.3.

reactant | (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester | COC([C@H](CC=1C=C2C=CNC2=CC1)OCC)=O | C14H17NO3
reactant | 4-chloromethyl-2-phenyl-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
product | (S)-2-Ethoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid | 64% yield | C(C)O[C@H](C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=CC=C1 | C24H24N2O4
